US08895580B2
Step 3: Preparation of 2-allyl-5-[(5-bromopyridin-2-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one
5-[(5-Bromopyridin-2-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one (250 mg, 0.704 mmol) was dissolved in dimethylsulfoxide (3 mL) and treated with sodium hydride (70.4 mg, 1.76 mmol, 2.5 equiv) and allyl bromide (170 mg, 1.41 mmol, 2.0 equiv). The mixture was stirred at ambient temperature for 18 hours, poured into dichloromethane (50 mL) and washed with sodium bicarbonate (2×50 mL, aqueous saturated) and brine (1×50 mL). The organic extract was dried with sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by preparative reverse phase HPLC (eluting 80:20 to 5:95; water containing 0.1% trifluoroacetic acid:acetonitrile containing 0.1% trifluoroacetic acid), providing the title compound: 1H-NMR (400 MHz, CD3OD) δ 8.90 (1H, s), 8.56 (1H, s), 8.34 (1H, d, J=9.0 Hz), 7.99 (1H, d, J=6.2 Hz), 7.74 (1H, d, J=8.2 Hz), 7.63-7.55 (2H, m), 7.42 (1H, d, J=8.4 Hz), 6.07-5.98 (1H, m), 5.81 (2H, s), 5.24-5.16 (2H, m), 4.86 (2H, s), ppm; low resolution mass spectrometry (ES+) m/z 396.8 (81Br) [(M+H)+; calculated for C19H15BrN4O: 397.0].

reactant | 5-[(5-Bromopyridin-2-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | 0.704 mmol, 250 mg | BrC=1C=CC(=NC1)CN1C=C2C(C=3C=CC=CC13)=NNC2=O | C16H11BrN4O
reactant | sodium hydride | 1.76 mmol, 70.4 mg, 2.5 equiv | [H-].[Na+]
reactant | allyl bromide | 1.41 mmol, 170 mg, 2.0 equiv | C(C=C)Br | C3H5Br
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
product | 2-allyl-5-[(5-bromopyridin-2-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | C(C=C)N1N=C2C(=CN(C=3C=CC=CC23)CC2=NC=C(C=C2)Br)C1=O | C19H15BrN4O
